US07902226B2
7-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid
Ethyl 7-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylate (1.40 g, 4.56 mmol) was dissolved in acetic acid (4 ml), and after adding concentrated hydrochloric acid (4 ml) thereto, it was heated under reflux for 3 hours. After cooling, the reaction solution was poured into ice water (50 ml) and the precipitated crystals were filtered out. After washing the filtered-out crystals with an excess amount of water, washing in cold ethanol and washing in diethyl ether were performed in that order, and after drying under a reduced pressure, 1.18 g (93%) of the title compound was obtained in the form of a white powder.

reactant | Ethyl 7-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylate | 4.56 mmol, 1.40 g | FC1=CC=C2C(C(=CN(C2=C1C)[C@H]1[C@H](C1)F)C(=O)OCC)=O | C16H15F2NO3
reactant | hydrochloric acid | 4 ml | Cl | ClH
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | 7-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid | 1.18 g, 93% | FC1=CC=C2C(C(=CN(C2=C1C)[C@H]1[C@H](C1)F)C(=O)O)=O | C14H11F2NO3
